US06657089B1
(1) 2-Methyl-2-ethyl-4-hydroxymethyl-1,3-dioxolane
In a reaction vessel having a capacity of 3 L and equipped with a thermometer, a reflux condenser, a Dean-Stark trap, a calcium chloride tube and a stirrer, methyl ethyl ketone (400 g, 5,547 mol), glycerin (561.91 g, 6.102 mol), paratoluene-sulfonic acid monohydrate (21.10 g, 0.1109 mol) and hexane (400 mL) were charged. The contents were heated under stirring and a reaction was conducted at 67 to 74° C. for 30 hours to distill off a calculated amount of water. After completion of the reaction, the reaction mixture was cooled to 60° C., followed by the addition of sodium carbonate (23.51 g, 0.2218 mol) for neutralization. After the resulting mixture was stirred at 60° C. for 30 minutes, the temperature was gradually raised up to 120° C. to recover hexane (400 mL). Filtration was then conducted to obtain the titled product in a crude form (894.74 g). Using a Biglew tube (20 cm×1.5 cm in diameter), distillation was conducted under reduced pressure to obtain the titled compound (725.14 g, yield: 89.4%). By a gas chromatographic analysis, the purity of the compound was found to be 99.1 wt. %. b.p. 101 to 104° C./17 mmHg.

reactant | methyl ethyl ketone | 5,547 mol, 400 g | C(C)C(=O)C | C4H8O
reactant | glycerin | 6.102 mol, 561.91 g | OCC(O)CO | C3H8O3
reactant | paratoluene-sulfonic acid monohydrate | 0.1109 mol, 21.10 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium carbonate | 0.2218 mol, 23.51 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | hexane | 400 mL | CCCCCC | C6H14
product | 2-Methyl-2-ethyl-4-hydroxymethyl-1,3-dioxolane | CC1(OCC(O1)CO)CC | C7H14O3
